US09388195B2
A mixture of pentane-2,4-dione (10.01 g) and 1,1-dimethoxy-N,N-dimethylmethanamine (12.51 g) was stirred at 80° C. for 1 hr. Tetrahydrofuran (20 mL) was added to the reaction mixture, hydrazine hydrate (7.51 g) was added by small portions under ice-cooling, and the mixture was stirred at room temperature for 30 min. The reaction mixture was allowed to warm to room temperature, ethyl acetate (100 mL) and water (100 mL) were added, and the separated aqueous layer was extracted with ethyl acetate (50 mL×2). The combined organic layers were washed with brine (20 mL) and dried over anhydrous magnesium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give 1-(5-methyl-1H-pyrazol-4-yl)ethanone (12.40 g) as a colorless oil. This was dissolved in N,N-dimethylformamide (10 mL), bromomethylbenzene (18.80 g) and potassium carbonate (15.20 g) were added and the mixture was stirred at 60° C. for 18 hr. The reaction mixture was allowed to warm to room temperature, ethyl acetate (100 mL) and water (100 mL) were added, and the separated aqueous layer was extracted with ethyl acetate (50 mL×2). The combined organic layers were washed with brine (20 mL) and dried over anhydrous magnesium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (9.80 g) as a pale-yellow solid.

reactant | pentane-2,4-dione | 10.01 g | CC(CC(C)=O)=O | C5H8O2
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 12.51 g | COC(N(C)C)OC | C5H13NO2
reactant | Tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | hydrazine hydrate | 7.51 g | O.NN
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5-methyl-1H-pyrazol-4-yl)ethanone | 12.40 g | CC1=C(C=NN1)C(C)=O | C6H8N2O
